US05219847
I-7-3: Synthesis of 2-acetoxymethyl-6-butoxypyridine
An amount 60 ml of acetic anhydride was stirred at about 120° C., and a solution of 11.1 g of 6-butoxy-α-picoline N-oxide in 25 ml of glacial acetic acid was dropwise added thereto over about one hour. After the dropwise addition, the mixture was stirred at 135° C. for 4.5 hours, acetic acid and acetic anhydride were removed by concentration under a reduced pressure, the reaction mixture was dissolved in ether, and the remaining acetic acid was neutralized with an aqueous sodium hydrogen carbonate solution. The mixture was extracted with ether, concentrated under a reduced pressure, and separated by silica gel column chromatography (ethyl acetate:hexane=8:92) to obtain 4.89 g of the desired product (yield 35.9%).

reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-butoxy-α-picoline N-oxide | 11.1 g | C(CCC)OC=1C=CC=C([N+]1[O-])C | C10H15NO2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-acetoxymethyl-6-butoxypyridine | 4.89 g, yield 35.9% | C(C)(=O)OCC1=NC(=CC=C1)OCCCC | C12H17NO3
